US07723329B2
Ethanol (180 mL) and 10% palladium on carbon (5.2 g) were added to a hot solution of toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-ethyl ester (11.5 g, 21.2 mmol) in THF (180 mL). This mixture was shaken on the Parr hydrogenation apparatus for 5 hours, with a starting pressure of 47 psi. It was then filtered over Celite, concentrated and dried in vacuo at 80° C. for 30 minutes to give toluene-4-sulfonic acid 2-[4-amino-3-(naphthalene-1-sulfonylmethyl)-phenoxy]-ethyl ester as a dark brown gum (9.5 g, 88.0%). Mass Spectrum (+EI, [M+H]+) m/z 512. 1HNMR (500 MHz, DMSO-d6): 88.61 (d, 1H, J=8.41 Hz), 8.25 (d, 1H, J=8.30 Hz), 8.03-8.08 (m, 2H), 7.59-7.75 (m, 5H), 7.43 (d, 2H, J=7.93 Hz), 6.49-6.53 (m, 2H), 6.11 (d, 1H, J=2.68 Hz), 4.65-4.77 (br, 2H), 4.59 (s, 2H), 4.09-4.11 (m, 2H), 3.63-3.65 (m, 2H), 2.38 ppm (s, 3H).

reactant | Ethanol | 180 mL | C(C)O | C2H6O
reactant | toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-ethyl ester | 21.2 mmol, 11.5 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)CC=1C=C(OCCOS(=O)(=O)C2=CC=C(C=C2)C)C=CC1[N+](=O)[O-] | C26H23NO8S2
catalyst | palladium on carbon | 5.2 g | [Pd] | Pd
solvent | THF | 180 mL | C1CCOC1 | C4H8O
product | toluene-4-sulfonic acid 2-[4-amino-3-(naphthalene-1-sulfonylmethyl)-phenoxy]-ethyl ester | 9.5 g, 88.0% | NC1=C(C=C(OCCOS(=O)(=O)C2=CC=C(C=C2)C)C=C1)CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C26H25NO6S2
